US04076829
8.7 g. 4-(2,3-epoxypropoxy)-6-hydroxymethyl-indole (cf. the preparation of the starting material in Example 15) were dissolved in 50 ml. anhydrous pyridine. To this solution were added dropwise, while stirring and cooling to 5° - 10° C., 5 ml. pivalic acid chloride, 1.5 - 2 hours after the ending of the addition, the reaction mixture was poured into ice water. The aqueous phase was extracted 3 or 4 times with diethyl ether. The ethereal extract was successively washed with 1N sulfuric acid, a saturated aqueous solution of sodium bicarbonate and water, then dried, treated with active charcoal and fullers' earth and subsequently evaporated. The crude (4-(2,3-epoxypropoxy)-6-pivaloyloxymethyl-indole thus obtained (12.5 g.; about 100% of theory) was further reacted without further purification.

reactant | 4-(2,3-epoxypropoxy)-6-hydroxymethyl-indole | O1C(COC2=C3C=CNC3=CC(=C2)CO)C1 | C12H13NO3
reactant | pivalic acid chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(2,3-epoxypropoxy)-6-pivaloyloxymethyl-indole | O1C(COC2=C3C=CNC3=CC(=C2)COC(C(C)(C)C)=O)C1 | C17H21NO4
